US03956260
39. Z-Arg-Phe-Ser(tBu)-Gly-OCH3 hydrobromide
5.3 g of Z-Arg-OH (17.3 mmols) are suspended in 15 ml of dimethylformamide and after cooling with an ice-sodium chloride mixture, 5.9 ml of hydrobromic acid in methanol (3.06 N, 18 mmols) are added. After brief stirring a clear colourless solution is produced. A solution of 5.6 g of H-Phe-Ser(tBu)-Gly-OCH3 (14.4 mmols) in 15 ml of dimethylformamide is added dropwise thereto at -18°C and a further 7 ml of dimethylformamide are added. A solution of 3.85 g of dicyclohexylcarbodiimide in 5 ml of methylene chloride is then added, the cooling mixture is replaced by ice water after 1 hour, and after a further 3 hours the reaction mixture is stirred overnight at room temperature. The precipitate of dicyclohexylurea which has separated out is then filtered off and the filtrate is concentrated in vacuo to half its volume, cooled to 0°C and stirred into 600 ml of ether. The solution is decanted from the resulting precipitate, and the precipitate is washed with ether, dissolved in about 50 ml of methanol and again precipitated with 600 ml of ether. After again dissolving in methanol, the material is evaporated and dried in a high vacuum. In a thin layer chromatogram on silica gel layers the product shows: Rf52 = 0.48; Rf100 = 0.54; on Selekta cellulose Rf45 = 0.81.

reactant | Z-Arg-OH | 17.3 mmols, 5.3 g | N([C@@H](CCCNC(N)=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H20N4O4
reactant | hydrobromic acid | 5.9 ml | Br | BrH
reactant | methanol | 18 mmols, 3.06 N | CO | CH4O
reactant | H-Phe-Ser(tBu)-Gly-OCH3 | 14.4 mmols, 5.6 g | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](COC(C)(C)C)C(=O)NCC(=O)OC | C19H29N3O5
reactant | dicyclohexylcarbodiimide | 3.85 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | Z-Arg-Phe-Ser(tBu)-Gly-OCH3 hydrobromide | N([C@@H](CCCNC(N)=N)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](COC(C)(C)C)C(=O)NCC(=O)OC)C(=O)OCC1=CC=CC=C1.Br | InChI=1S/C33H47N7O8.BrH/c1-33(2,3)48-21-26(28(42)37-19-27(41)46-4)39-30(44)25(18-22-12-7-5-8-13-22)38-29(43)24(16-11-17-36-31(34)35)40-32(45)47-20-23-14-9-6-10-15-23;/h5-10,12-15,24-26H,11,16-21H2,1-4H3,(H,37,42)(H,38,43)(H,39,44)(H,40,45)(H4,34,35,36);1H/t24-,25-,26-;/m0./s1
